US04279637
PREPARATION OF ETHYL [4-[3-(TRIFLUOROMETHYL)PHENOXY]-PHENYL]CARBAMATE
4-[3-(trifluoromethyl)phenoxy]benzenamine (6.0 grams; 0.21 mol) and pyridine (50 ml) were placed in a glass reaction vessel equipped with a mechanical stirrer and placed in an ice bath. Ethyl chloroformate (5 ml) was added dropwise to the reaction mixture with continuous stirring. Stirring was continued overnight and the mixture was then poured into ice water (500 ml). The precipitate was washed with water and dried. It was found to have a melting point of 74°-75.5° C. In fraud analysis confirmed the identity of the desired product.

reactant | 4-[3-(trifluoromethyl)phenoxy]benzenamine | 0.21 mol, 6.0 grams | FC(C=1C=C(OC2=CC=C(C=C2)N)C=CC1)(F)F | C13H10F3NO
reactant | Ethyl chloroformate | 5 ml | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | ETHYL [4-[3-(TRIFLUOROMETHYL)PHENOXY]-PHENYL]CARBAMATE | FC(C=1C=C(OC2=CC=C(C=C2)NC(OCC)=O)C=CC1)(F)F | C16H14F3NO3
